US07001897B2
To a solution of 3-t-butyldiphenylsilyloxy-1-(4-hydroxymethyl-1,3-thiazol-2-yl)azetidine (3.88 g, 9.15 mmol) (obtained as described in Reference Example 2(2)) in anhydrous methylene chloride (194 ml) were added activated manganese dioxide (19.4 g) and the mixture was stirred at room temperature for 7 hours. After checking the completion of the reaction, the reaction mixture was filtered and the filtrate concentrated under reduced pressure. The residue was purified by chromatography on a silica gel column using n-hexane:ethyl acetate (3:1→1:1) as the eluant to afford 3-t-butyldiphenylsilyloxy-1-(4-formyl-1,3-thiazol-2-yl)azetidine (3.54 g, yield 92%) as a white solid.

reactant | 3-t-butyldiphenylsilyloxy-1-(4-hydroxymethyl-1,3-thiazol-2-yl)azetidine | 9.15 mmol, 3.88 g | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OC1CN(C1)C=1SC=C(N1)CO | C23H28N2O2SSi
solvent | methylene chloride | 194 ml | C(Cl)Cl | CH2Cl2
catalyst | manganese dioxide | 19.4 g | [O-2].[O-2].[Mn+4]
product | 3-t-butyldiphenylsilyloxy-1-(4-formyl-1,3-thiazol-2-yl)azetidine | 3.54 g, yield 92% | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OC1CN(C1)C=1SC=C(N1)C=O | C23H26N2O2SSi
